US08476297B2
(R)-2-methylpropane-2-sulfinamide (31.6 g, 260 mmol), 4-(trifluoromethyl)-benzaldehyde (22.7 g, 130 mmol) and cupric sulfate (83.2 g, 521 mmol) were added to 300 mL DCM and the mixture was stirred for 36 h. The mixture was filtered through a pad of celite and the filtrate was evaporated and purified via silica plug filtration. (R)—N-(4-(trifluoromethyl)benzylidene)-2-methylpropane-2-sulfinamide was obtained as a white solid.

reactant | (R)-2-methylpropane-2-sulfinamide | 260 mmol, 31.6 g | CC(C)(C)[S@@](=O)N | C4H11NOS
reactant | 4-(trifluoromethyl)-benzaldehyde | 130 mmol, 22.7 g | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-(4-(trifluoromethyl)benzylidene)-2-methylpropane-2-sulfinamide | FC(C1=CC=C(C=N[S@](=O)C(C)(C)C)C=C1)(F)F | C12H14F3NOS
